US05274060
In a 1-liter sulfonating flask equipped with mechanical stirrer, reflux condenser and nitrogen delivery line, 300 ml of dimethyl sulfoxide are added to 150 g (0.91 mol) of 4-hydroxycinnamic acid, 6 g (54 mmol) of hydroquinone and 6 g (39 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene. The mixture is then heated at 135° C. for 31/2 hours. After cooling, the mixture is poured onto ice and extracted three times with 500 ml of diethyl ether, and the organic phase is washed five times with 100 ml of water, dried over magnesium sulfate and concentrated. The resulting oil is recrystallised twice from n-hexane to yield 69.07 g (0.58 mol, 63% of the theoretical yield) of 4-hydroxystyrene in the form of a white powder (m.p. 68° C.).

reactant | 4-hydroxycinnamic acid | 0.91 mol, 150 g | OC1=CC=C(C=CC(=O)O)C=C1 | C9H8O3
reactant | hydroquinone | 54 mmol, 6 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 39 mmol, 6 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethyl sulfoxide | 300 ml | CS(=O)C | C2H6OS
product | 4-hydroxystyrene | OC1=CC=C(C=C)C=C1 | C8H8O
